US06004531
Dihydropyran (19 g, 230 mmol) was added dropwise to a solution of methyl mercaptoacetate (20 g, 188 mmol) in anhydrous ether (40 cm3) cooled in ice. Hydrogen chloride was passed into this solution until it began to feel warm and then the mixture was left to stand at room temperature overnight. Volatile components were removed under reduced pressure (50 C at 20 mmHg) to give the methyl tetrahydropyran-2-ylthioacetate in essentially quanitative yield. This material was sufficiently pure to be used without further purification.

reactant | Dihydropyran | 230 mmol, 19 g | O1CCCC=C1 | C5H8O
reactant | methyl mercaptoacetate | 188 mmol, 20 g | SCC(=O)OC | C3H6O2S
reactant | Hydrogen chloride | Cl | ClH
reactant | ether | 40 cm3 | CCOCC | C4H10O
product | methyl tetrahydropyran-2-ylthioacetate | O1C(CCCC1)CC(=S)OC | C8H14O2S
